US07449466B2
Production Example 2 was repeated except that 1-(4-methoxyphenyl)-4-phenethylpiperazine was replaced with 4-(2,5-difluoro-4-methoxyphenyl)-1-(octylsulfonyl)piperazine (300 mg). The resulting crude product was purified on TLC (developer, hexane: ethyl acetate=11:5) to provide 4-(2,5-difluoro-4-hydroxyphenyl)-1-(octylsulfonyl)piperazine (253 mg).

reactant | 1-(4-methoxyphenyl)-4-phenethylpiperazine | COC1=CC=C(C=C1)N1CCN(CC1)CCC1=CC=CC=C1 | C19H24N2O
reactant | 4-(2,5-difluoro-4-methoxyphenyl)-1-(octylsulfonyl)piperazine | 300 mg | FC1=C(C=C(C(=C1)OC)F)N1CCN(CC1)S(=O)(=O)CCCCCCCC | C19H30F2N2O3S
product | 4-(2,5-difluoro-4-hydroxyphenyl)-1-(octylsulfonyl)piperazine | 253 mg | FC1=C(C=C(C(=C1)O)F)N1CCN(CC1)S(=O)(=O)CCCCCCCC | C18H28F2N2O3S
